US05807974
Synthesis of 2,7-bis(bromomethyl)-9-{2-[2-(2-methoxyethoxy)ethoxy]ethyl}fluorene
In a 1 L three-hole flask equipped with a stirrer, a thermometer and a reflux condenser, 31.2 g (0.1 mol) of 9-methoxyethoxyethoxyethylfluorene, 30 g (1.0 mol) of paraformaldehyde, 300 g of 30% HBr acetic acid solution, and 120 g of 48% HBr aqueous solution, were introduced and reacted for 24 hours at a temperature of 60° C. After reaction, the temperature was decreased to room temperature, and the reactant was diluted with 500 ml of cold water, and then extracted three times with 200 ml of dichloromethane. The extracted organic solutions were combined and washed consecutively with water, saturated NaHCO3 aqueous solution, and salt water. The resultant organic solution was dried with magnesium sulfate anhydride, and after filtering and evaporating the solvent, a light yellow viscous liquid was obtained. After refining the liquid using silica gel column (ethylacetate/hexan=1/4 mixed solvent), and evaporating the solvent, 39.8 g (yield: 80%) of a colorless transparent viscous liquid was obtained. [1H-NMR (CDCl3), δ 2.28(m, 3H, OCH3), 3.41-3.71(m, 12H, OCH2CH2), 4.09(t, 1H, CH), 4.60(s, 4H, CH2Br), 7.25-7.71(m, 6H, aromatic)].

reactant | 9-methoxyethoxyethoxyethylfluorene | 0.1 mol, 31.2 g | COCCOCCOCCC1C2=CC=CC=C2C=2C=CC=CC12 | C20H24O3
reactant | paraformaldehyde | 1.0 mol, 30 g | C=O | CH2O
reactant | HBr acetic acid | 300 g | C(C)(=O)O.Br
reactant | HBr | 120 g | Br | BrH
reactant | ethylacetate hexan | C(C)OC(C)=O.CCCCCC
solvent | water | 500 ml | O | H2O
product | 2,7-bis(bromomethyl)-9-{2-[2-(2-methoxyethoxy)ethoxy]ethyl}fluorene | 39.8 g, yield: 80% | BrCC1=CC=2C(C3=CC(=CC=C3C2C=C1)CBr)CCOCCOCCOC | C22H26Br2O3
